Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CC: Right low back and right lower extremity pain and rash
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ ___ speaking female with a history of
hypertension, osteoarthritis, legal blindness from childhood
presenting with progressive rash and associated pain ×1 week.

History is obtained from patient with assistance of her son in
interpreting from ___.

Patient was seen in clinic on ___ with reports of 
throbbing
sensation in right lower back, radiating to right lower
extremity, first noted on ___.  She also described a
tingling sensation around right lower back, without weakness,
fevers, chills.  Symptoms were not relieved by topical 
diclofenac
gel and naproxen.  At that time, she also apparently reported a
rash that developed after application of diclofenac gel.  She
described 10 out of 10 pain, with associated fatigue.  She has a
history of chickenpox and shingles.  Exam at that time was
notable for a vesicular rash on an erythematous base extending
from lumbar spine around right low back and buttock and onto
right proximal anterior thigh.  Some lesions were crusted over. 
She was diagnosed with shingles, and prescribed Valtrex with 
plan
for 1 week course.  She was also prescribed oxycodone, 6 
tablets,
after review of PMP, given degree of discomfort.  She
re-presented on ___ with worsening pain and rash.  She
described rash extending over her back and right leg and into
right groin, with "pain in her forehead."  Clinic notes describe
erythematous vesicular lesions and hair above forehead, normal
eye exam, no oral pharyngeal lesions noted.  Note also describes
numerous vesicular lesions over the right back, buttock, right
groin, and right thigh.  Of note, HIV was checked in ___ and
negative, patient has no other known immunocompromise.  She was
directed to the ED for admission for disseminated zoster and 
pain
control.

In the ED:
Vital signs were temp 97.7, 81, 122/74, 100% on room air
Patient apparently appeared uncomfortable, with vesicular rash 
of
her right thigh extending from lateral aspect of superior thigh
to medial aspect of right thigh in multiple dermatomal
distributions, and small vesicular eruptions over right lower
back.
Labs were notable for WBC 4.9, hemoglobin 14.1, platelets 148
Creatinine 0.8, LFTs within normal limits
HIV antibodies and viral load were sent
No imaging was done
Received morphine sulfate 2 mg IV and acyclovir 800 mg IV

On arrival to the floor, pt confirms above. She states that she
was taking valacyclovir as prescribed, TID, as well as oxycodone
with minimal relief. Pain is described as sharp, burning,
tingling, "deep to the bone." Pain is ___. She endorses
dizziness without headache. Vision at baseline is impaired, but
unchanged. Denies oral lesions, dysphagia. 

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI

 
Past Medical History:
Hypertension
Melasma
Osteoarthritis
Endometrial thickening-biopsy in ___ was unremarkable
Obesity
Eye scarring in childhood,?  From smallpox
Cataracts
Recovered hepatitis B-positive HBsAb and HBcAb negative HBsAg
when checked in ___
Trochanteric bursitis

 
Social History:
___
Family History:
Per notes, CAD and her mother at age ___
 
Physical Exam:
Physical Exam:
VS: 98.8 PO 131 / 81 90 18 99 RA 
GEN: alert and interactive, appears mildly uncomfortable,
shifting frequently in bed
HEENT: Clouding of bilateral irises, anicteric, conjunctiva 
pink,
oropharynx without
lesion or exudate, moist mucus membranes.  There is a single
crusted lesion obscured by hair above her forehead, without
erythematous base, not vesicular.
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, nontender, without rebounding or guarding, 
nondistended
with normal active bowel
sounds, no hepatomegaly appreciated
EXTREMITIES: Crusted lesions on erythematous base ranging in 
size
from 2 mm to 1 cm, distributed in L2 and L3 dermatomes, 
extending
from low right flank to lateral aspect of right thigh and
inferiorly and anteriorly on right thigh these lesions extend to
the outer portion of the labia majora at the border of the S1
dermatome.  There are no lesions that across the midline. 
Hyperalgesia of right L1-L2 distribution, with fullness of the
right thigh without discrete collection.
GU: no foley
SKIN: Lesions as above
NEURO: Strength is grossly symmetric, hyperalgesia in L1-L2
distribution as noted above
PSYCH: normal mood and affect

Exam on discharge:
98.4 BP: 134 / 79 HR: 9018100Ra
GEN: alert and interactive, in NAD
HEENT: Anicteric, conjunctiva pink, oropharynx without lesion or 
exudate, moist mucus membranes. 
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or gallops
LUNGS: clear to auscultation bilaterally without rhonchi, 
wheezes, or crackles
GI: soft, nontender, without rebounding or guarding, non 
distended with normal active bowel
sounds, no hepatomegaly appreciated
EXTREMITIES/SKIN: Crusted and vesicular lesions on erythematous 
base  on lateral right thigh extending to outer portion of labia 
majora. Two small lesions on upper back on left. 
GU: no foley
NEURO: Strength is grossly symmetric
PSYCH: normal mood and affect

 
Pertinent Results:
___ 05:00PM   HIV1 VL-NOT DETECT
___ 04:50PM   GLUCOSE-92 UREA N-11 CREAT-0.8 SODIUM-140 
POTASSIUM-3.6 CHLORIDE-101 TOTAL CO2-25 ANION GAP-14
___ 04:50PM   estGFR-Using this
___ 04:50PM   ALBUMIN-4.4
___ 04:50PM   HIV Ab-NEG
___ 04:50PM   WBC-4.9 RBC-4.54 HGB-14.1 HCT-39.8 MCV-88 
MCH-31.1 MCHC-35.4 RDW-12.5 RDWSD-39.3
___ 04:50PM   NEUTS-56.0 ___ MONOS-9.6 EOS-1.6 
BASOS-0.6 IM ___ AbsNeut-2.75 AbsLymp-1.53 AbsMono-0.47 
AbsEos-0.08 AbsBaso-0.03
___ 04:50PM   PLT COUNT-148*
 
Brief Hospital Course:
___ history of hypertension, osteoarthritis, legal blindness 
from childhood presenting with painful zoster infection.

#Varicella Zoster:
Patient presented with dermatomal, painful, vesicular rash due 
to herpes zoster. There was some concern for disseminated 
infection given one scalp lesion and two small lesions on upper 
back, on same side of body. Difficult to tell if disseminated 
and patient not immunocompromised. HIVab and viral load were 
negative. She was treated with IV acyclovir and will be 
transitioned to oral valacyclovir to complete a 7 day course. 
Her pain was initially controlled with narcotics which were 
weaned prior to discharge. She was started on Gabapentin which 
was uptitrated to 300mg TID with good pain control on discharge. 
The patient will follow up with her PCP after discharge.

#Hypertension:
Amlodipine was initially held but the patient was noted to be 
hypertensive. It was resumed on discharge.

Transitional issues:
- Discharged on oral Valacyclovir to complete a 7 day course
- Started gabapentin 300mg TID, consider discontinuing if no 
longer necessary

# Advance Care Planning/Code status: Full-presumed
# Contact: ___ (daughter) ___, ___ (son)
___

>30 minutes on discharge planning. Patient seen with in-person 
interpreter. All questions were answered to the best of my 
ability and to the patient's apparent satisfaction. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ValACYclovir 1000 mg PO Q8H 
2. Senna 17.2 mg PO QHS:PRN constipation 
3. OxyCODONE (Immediate Release) 2.5-5 mg PO TID:PRN Pain - 
Moderate 
4. amLODIPine 2.5 mg PO DAILY 
5. diclofenac sodium 1 % topical BID 
6. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
2.  amLODIPine 2.5 mg PO DAILY  
3.  ValACYclovir 1000 mg PO Q8H 
Please take until ___  
4.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Varicella Zoster

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
MS. ___,

It was a pleasure taking care of you during your admission to 
___. You were admitted with pain due to shingles and treated 
with an antiviral medication and pain medications. You should 
continue to take the antiviral medication you were prescribed by 
your PCP, ___ for 3 additional days. You will have 
pills left over. You were started on a medication for pain 
called gabapentin. You should take this medication three times 
per day and follow up with your primary care doctor to discuss 
when you should discontinue this medication.

We wish you the best,
Your ___ Care team
 
Followup Instructions:
___